US06605618B2
4-(4-[2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic acid {2-[2-methoxy-4-(3-phenoxy-propoxy)-phenyl}-ethyl}-amide
4-[4-(2-Aminoethyl)anilino]-N-[2-methoxy-4-(3-phenoxypropoxy)phenethyl]-1-piperidinecarboxamide formate (0.426 g, 0.718 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.29 g, 0.718 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.27 g, 0.284 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-[2-methoxy-4-(3-phenoxypropoxy)phenethyl]-1-piperidinecarboxamide formate | 0.718 mmol, 0.426 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCC2=C(C=C(C=C2)OCCCOC2=CC=CC=C2)OC)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.718 mmol, 0.29 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-[2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic acid {2-[2-methoxy-4-(3-phenoxy-propoxy)-phenyl}-ethyl}-amide | 0.284 mmol, 0.27 g | COC1=C(C=CC(=C1)OCCCOC1=CC=CC=C1)CCNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C41H52N4O7
